* source COMPENSATOR
X_M1         N1 N16028 N2 IRF640NS
V_V3         N1 0 DC 14 AC 0 0
D_D1         0 N2 MBR1645
L_L1         N2 N3  109.95u  
C_C4         0 N3  750n  TC=0,0 
R_R4         0 N3  5 TC=0,0 
X_U3         N4 N8 N18283 0 N6 N154675 N2 N154677 IR2106 PARAMS:  CDELAY=50N
+  RDELAY=50 T1=-40 T2=25 T3=125 V1=10 V2=15 V3=20 TOFFT1=200N TOFFT2=200N
+  TOFFT3=200N TOFFV1=200N TOFFV2=200N TOFFV3=200N TONT1=210N TONT2=210N
+  TONT3=210N TONV1=210N TONV2=210N TONV3=210N
D_D2         N4 N157730 MBR1645
C_C5         N2 N6  2.2uF  TC=0,0 
R_10         N154675 N16028  10 TC=0,0 
R_R6         N10 N8  100 TC=0,0 
R_1k         N154677 0  10 TC=0,0 
V_V7         N4 0 DC 12 AC 0 0
C_C6         0 N4  0.1uF  TC=0,0 
U_DSTM1         STIM(1,1) $G_DPWR $G_DGND N10 IO_STM IO_LEVEL=0 
+ 0 0
+ +0 1
+REPEAT FOREVER
+ +3.57us 0
+  +6.43us 1
+ ENDREPEAT
R_1k1         N18283 0  10 TC=0,0 
R_5         N157730 N6  10 TC=0,0 
